US06284785B1
(RS)-4-[1-(Toluene-4-sulfonyl)-pyrrolidin-2-yl]-pyridine
The title compound, pale brown solid, m.p. 158° C. and MS: m/e=302 (M+) was prepared in accordance with the general method of example 1e from (RS)-4-(2-pyrrolidinyl)-pyridine and toluene-4-sulfonyl chloride.

reactant | (RS)-4-(2-pyrrolidinyl)-pyridine | N1C(CCC1)C1=CC=NC=C1 | C9H12N2
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-4-[1-(Toluene-4-sulfonyl)-pyrrolidin-2-yl]-pyridine | C1(=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=NC=C1)C | C16H18N2O2S
